US06642228B1
3-(1-(3-Piperidylpropyl)-3-piperidyl)indole Hydrochloride
Using 3-(3-indolyl)piperidine (104 mg, 0.44 mmol) and 1-(3-chloropropyl)piperidine hydrochloride (122 mg, 0.62 mmol) instead of 4-(3-indolyl)piperidine and 3-dimethylaminopropyl chloride hydrochloride respectively, reaction, extraction, and concentration were carried out in the same procedure as Example 4. The resulting crude product was purified by column chromatography on a silica gel (silica gel NH-DM 1020 produced by Fuji Silysia Chemical Ltd., eluent; chloroform) to afford a free form (125 mg) of the title compound as a pale yellow viscous oil. After adding hydrochloric acid/methanol to a solution of the free form in methanol, the mixture was concentrated and was then freeze-dried to afford the title compound (129 mg, yield: 74%) as a white amorphous solid.

reactant | 3-(3-indolyl)piperidine | 0.44 mmol, 104 mg | N1C=C(C2=CC=CC=C12)C1CNCCC1 | C13H16N2
reactant | 1-(3-chloropropyl)piperidine hydrochloride | 0.62 mmol, 122 mg | Cl.ClCCCN1CCCCC1
reactant | 3-dimethylaminopropyl chloride hydrochloride | Cl.CN(CCCCl)C
product | 3-(1-(3-Piperidylpropyl)-3-piperidyl)indole Hydrochloride | 125 mg | Cl.N1CC(CCC1)CCCN1CC(CCC1)C1=CNC2=CC=CC=C12 | InChI=1S/C21H31N3.ClH/c1-2-10-21-19(9-1)20(15-23-21)18-8-5-13-24(16-18)12-4-7-17-6-3-11-22-14-17;/h1-2,9-10,15,17-18,22-23H,3-8,11-14,16H2;1H
